US04943580
A mixture of 1.08 parts of 1-chloro-2-ethoxyethane, 2.9 parts of 3-(2-ethoxyethyl)-N-(4-piperidinyl)-3H-imidazo[4,5-b]pyridin-2-amine, 1.06 parts of sodium carbonate and 45 parts of N,N-dimethylacetamide was stirred overnight at 70° C. The reaction mixture was poured into water and the product was extracted with 4-methyl-2-pentanone. The extract was dried, filtered and evaporated. The residue was purified by filtration over silica gel using a mixture of trichloromethane and methanol (96:4 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was converted into the ethanedioate salt in methanol. The salt was filtered off and dried, yielding 0.7 parts (12.9%) of 3-(2-ethoxyethyl)-N-[1-(2-ethoxyethyl)-4-piperidinyl]-3H-imidazo[4,5-b]pyridin-2-amine ethanedioate(1:2); mp. 176.1° C. (compound 44).

reactant | 1-chloro-2-ethoxyethane | ClCCOCC | C4H9ClO
reactant | 3-(2-ethoxyethyl)-N-(4-piperidinyl)-3H-imidazo[4,5-b]pyridin-2-amine | C(C)OCCN1C(=NC=2C1=NC=CC2)NC2CCNCC2 | C15H23N5O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
solvent | water | O | H2O
product | 3-(2-ethoxyethyl)-N-[1-(2-ethoxyethyl)-4-piperidinyl]-3H-imidazo[4,5-b]pyridin-2-amine ethanedioate | 12.9% | C(C(=O)O)(=O)O.C(C)OCCN1C(=NC=2C1=NC=CC2)NC2CCN(CC2)CCOCC | InChI=1S/C19H31N5O2.C2H2O4/c1-3-25-14-12-23-10-7-16(8-11-23)21-19-22-17-6-5-9-20-18(17)24(19)13-15-26-4-2;3-1(4)2(5)6/h5-6,9,16H,3-4,7-8,10-15H2,1-2H3,(H,21,22);(H,3,4)(H,5,6)
